US06649641B2
3-(3,5-Bis(trifluoromethyl)phenyl)-1-(4-tert-butylcyclohexyl)-1-{4-[1-hydroxy-2-(2H-tetrazol-5-yl)ethyl]benzyl}urea (as Pure Enantiomer)
To a solution of (R)-tetrahydro-1-methyl-3,3-diphenyl-1H,3H-pyrrolo[1,2-c]-[1,3,2]oxazaborole in toluene (17 μl, 0.17 mmol, 1 M) in THF (1 ml) was added boran-THF complex (328 μl, 0.32 mmol, 1 M in THF). Then a solution of 3-(3,5-bis(trifluoromethyl)phenyl)-1-(4-tert-butylcyclohexyl)-1-[4-(2-2H-tetrazol-5-yl-acetyl)-benzyl]urea (100 mg, 0.17 mmol) in THF (1.0 ml) was added dropwise over a period of 30 min. The reaction mixture was stirred at room temperature overnight and then quenched with 1 N aqueous HCl (100 μl). Solvent was removed by rotary evaporation. The residue was dissolved in THF (500 μl) and injected into a preparative HPLC on a Gilson 2.11 with auto sampler (Xterra MS C18 5 μm 19 mm×100 mm, gradient: 10% acetonitrile in water→100% acetonitrile).

reactant | (R)-tetrahydro-1-methyl-3,3-diphenyl-1H,3H-pyrrolo[1,2-c]-[1,3,2]oxazaborole | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
reactant | toluene | 0.17 mmol, 1 M, 17 μl | C1(=CC=CC=C1)C | C7H8
reactant | 3-(3,5-bis(trifluoromethyl)phenyl)-1-(4-tert-butylcyclohexyl)-1-[4-(2-2H-tetrazol-5-yl-acetyl)-benzyl]urea | 0.17 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(N(CC1=CC=C(C=C1)C(CC=1N=NNN1)=O)C1CCC(CC1)C(C)(C)C)=O)(F)F | C29H32F6N6O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | THF | 0.32 mmol, 1 M, 328 μl | C1CCOC1 | C4H8O
product | 3-(3,5-Bis(trifluoromethyl)phenyl)-1-(4-tert-butylcyclohexyl)-1-{4-[1-hydroxy-2-(2H-tetrazol-5-yl)ethyl]benzyl}urea | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(N(CC1=CC=C(C=C1)C(CC=1N=NNN1)O)C1CCC(CC1)C(C)(C)C)=O)(F)F | C29H34F6N6O2
